US05532258
Methyl chloroformate (0.45 g) was added slowly to a suspension of 4-(3-aminomethylphenyl)-2-[[(amino)(2-methoxyethylamino)methylene]amino] thiazole dihydrochloride (1.5 g) and triethylamine (1.6 g) in N,N-dimethylformamide (10 ml) and tetrahydrofuran (10 ml) with cooling on an ice bath. The mixture was stirred at room temperature for 8 hours. Water (100 ml) was added to the mixture. The mixture was extracted with a mixture of ethyl acetate (200 ml) and tetahydrofuran (20 ml). The extract was dried with magnesium sulfate and then evaporated in vacuo. The residue was chromatographed on a silica gel column eluting with a mixture of chloroform and methanol (20:1). The solvent was removed under reduced pressure and the residue was dissolved in ethanol (20 ml). 4N-Dioxane solution of hydrogen chloride (5 ml) was added to the mixture. The mixture was stirred at room temperature for 30 minutes. The solvent was removed under reduced pressure. The residue was crystallized from a mixture of ethanol and diisopropyl ether. Recrystallization from a mixture of ethanol and diisopropyl ether afforded 2-[[(amino)(2-methoxyethylamino)methylene]amino]-4-(3-methoxycarbonylaminomethylphenyl)thiazole hydrochloride (0.43 g).

reactant | Methyl chloroformate | 0.45 g | ClC(=O)OC | C2H3ClO2
reactant | 4-(3-aminomethylphenyl)-2-[[(amino)(2-methoxyethylamino)methylene]amino] thiazole dihydrochloride | 1.5 g | Cl.Cl.NCC=1C=C(C=CC1)C=1N=C(SC1)N=C(NCCOC)N
reactant | triethylamine | 1.6 g | C(C)N(CC)CC | C6H15N
reactant | Water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[[(amino)(2-methoxyethylamino)methylene]amino]-4-(3-methoxycarbonylaminomethylphenyl)thiazole hydrochloride | 0.43 g | Cl.NC(NCCOC)=NC=1SC=C(N1)C1=CC(=CC=C1)CNC(=O)OC | InChI=1S/C16H21N5O3S.ClH/c1-23-7-6-18-14(17)21-15-20-13(10-25-15)12-5-3-4-11(8-12)9-19-16(22)24-2;/h3-5,8,10H,6-7,9H2,1-2H3,(H,19,22)(H3,17,18,20,21);1H
